US06376514B1
Preparation of quinoline-6-carboxylic acid oxiranylmethyl ester (17)
Quinoline-6-carboxylic acid (1 g; 5.78 mmol) is dissolved in DMF (10 mL) at ambient temperature. Epichlorohydrin (0.4517 mL; 5.59 mmol) is added followed by mortar ground potassium carbonate (0.80 g; 5.79 mmol). The mixture is stirred at ambient temperature for 48 hours. Potassium iodide (96 mg; 0.58 mmol) is added and stirring is continued at ambient temperature for 24 hours. The mixture is heated to 60° C. and maintained for 72 hours. After cooling, the mixture is poured onto water (700 mL) and extracted with ethyl acetate (3×100 mL). The combined organic extracts are washed successively with water (100 mL), and brine (50 mL), then dried over MgSO4, filtered, and concentrated in vacuo at 30C. The residue is purified via silica gel chromatography with gradient elution (20%→67% ethyl acetate in hexanes) affording the desired product (270 mg) as a white solid. ESMS: MH+ 230.0 (base).

reactant | Quinoline-6-carboxylic acid | 5.78 mmol, 1 g | N1=CC=CC2=CC(=CC=C12)C(=O)O | C10H7NO2
reactant | Epichlorohydrin | 5.59 mmol, 0.4517 mL | C(Cl)C1CO1 | C3H5ClO
reactant | potassium carbonate | 5.79 mmol, 0.80 g | C([O-])([O-])=O.[K+].[K+]
reactant | Potassium iodide | 0.58 mmol, 96 mg | [I-].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | quinoline-6-carboxylic acid oxiranylmethyl ester | 270 mg | O1C(C1)COC(=O)C=1C=C2C=CC=NC2=CC1 | C13H11NO3
